US08461328B2
A solution of 3-fluoropyridin-4-amine (2.20 kg, 19.6 mol) in anhydrous tetrahydrofuran (25 L) was cooled to −5° C. and flushed with nitrogen. This solution was charged with triethylamine (3.99 kg/5.5 L, 39.4 mol). Benzoylchloride (3.173 kg/2.62 l, 22.57 mol) was added drop-wise via an addition funnel over two hours while the internal temperature was maintained between −5° C. to 5° C. and the reaction mixture was left to stand for an additional two hours. The reaction mixture was then filtered and washed with dry tetrahydrofuran (5×20 L). The tetrahydrofuran solution was concentrated under vacuum to give crude product which was recrystallized from ethyl acetate and hexane, filtered and dried to afford N-(3-fluoro-pyridin-4-yl)-benzamide, 3.90 kg, (92%). 1H NMR (400 MHz, CDCl3): δ 8.51 (1H, t, J=5.46 Hz), 8.45 (1H, d, J=2.34 Hz), 8.39 (1H, d, J=5.46 Hz), 8.30 (1H, s), 7.89 (2H, d, J=8.20 Hz), 7.62 (1H, t, J=7.03 Hz), 7.53 (2H, t, J=7.81 Hz).

reactant | 3-fluoropyridin-4-amine | 19.6 mol, 2.20 kg | FC=1C=NC=CC1N | C5H5FN2
reactant | triethylamine | 39.4 mol, 5.5 L, 3.99 kg | C(C)N(CC)CC | C6H15N
reactant | Benzoylchloride | 22.57 mol, 2.62 l, 3.173 kg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 25 L | O1CCCC1 | C4H8O
product | N-(3-fluoro-pyridin-4-yl)-benzamide | FC=1C=NC=CC1NC(C1=CC=CC=C1)=O | C12H9FN2O
